US08497264B2
To a suspension of 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one (25.00 g, 77 mmol) and trimethylsulfonium iodide (23.68 g, 116 mmol) in DMSO (130 mL)/THF (130 mL) was added drop wise potassium tert-butoxide (1M in THF) (116 mL, 116 mmol). After 15 min at RT trimethylsilyl azide (20.54 mL, 155 mmol) was added. The reaction mixture was stirred for additional 40 minutes and then quenched by addition of 100 ml of saturated aqueous sodium bicarbonate. After stirring for 10 minutes EtOAc (100 ml) and water (100 ml were added and the layers were separated. The organic layer was washed with water (3×100 ml), brine (100 ml) and dried over MgSO4. The solvent was removed under reduced pressure to obtain a yellow residue which was dissolved in 250 ml THF. The solution was cooled to 0° C. and LAH (1 M in THF, 108 mL, 108 mmol) was added drop wise. After 5 minutes at 0° C. the reaction mixture was allowed to warm to RT. The reaction mixture was cooled again to 0° C. and sodium sulfate decahydrate (21.98 g, 155 mmol) was added portion wise. The mixture was stirred for 5 minutes and diluted with 100 ml EtOAc. The reaction mixture was filtered through a pad of Celite and the filter cake was washed with EtOAc (100 ml). The filtrate was concentrated under reduced pressure to obtain a yellow foam which was re-crystallized from DCM to afford (9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)methanol as a white solid.

reactant | 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one | 77 mmol, 25.00 g | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)=O)OC)F | C14H8BrFO3
reactant | trimethylsulfonium iodide | 116 mmol, 23.68 g | [I-].C[S+](C)C
reactant | potassium tert-butoxide | 116 mmol, 1M, 116 mL | CC(C)([O-])C.[K+]
reactant | trimethylsilyl azide | 155 mmol, 20.54 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | LAH | 108 mmol, 1 M, 108 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium sulfate decahydrate | 155 mmol, 21.98 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | 130 mL | CS(=O)C | C2H6OS
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | (9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)methanol | NC1(C2=CC(=CC=C2OC=2C(=CC(=CC12)OC)F)Br)CO | C15H13BrFNO3
